US20010001799A1
A solution of 12.0 g of 4-cyclopropyl-2-ethyl-1-methoxymethoxy-benzene in 240 ml of 2N acetic acid was stirred for 24 hours at 90° C. The reaction mixture was poured into ice-water and extracted with dichloromethane. The organic phases were washed with water, saturated aqueous sodium bicarbonate solution and sodium chloride solution, dried over magnesium sulphate and concentrated. The residue was chromatographed over silica gel and gave 8.7 g of 4-cyclopropyl-2-ethyl-phenol; MS (EI) m/z 162 (M), 147 (M−CH3).

reactant | 4-cyclopropyl-2-ethyl-1-methoxymethoxy-benzene | 12.0 g | C1(CC1)C1=CC(=C(C=C1)OCOC)CC | C13H18O2
solvent | acetic acid | 2N, 240 ml | C(C)(=O)O | C2H4O2
product | 4-cyclopropyl-2-ethyl-phenol | 8.7 g | C1(CC1)C1=CC(=C(C=C1)O)CC | C11H14O
